US05622947
0.01 ml of chloroacetonitrile, 0.22 ml of triethylamine and 0.24 ml of sodium iodide were added to 50 ml of a solution of 0.7 g of 5-(2-aminoethoxy)-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine dissolved in dimethylformamide. The mixture was stirred at 60° C. for 2 hours. The reaction mixture was mixed with water, followed by extraction with ethyl acetate-n-hexane (10:1). The organic layer was water-washed, dried and subjected to vacuum distilation to remove the solvent. The residue was purified by silica gel column chromatography (elutant: dichloromethane/methanol=50/1) and crystallized from acetone-n-hexane to obtain 0.5 g of 5-(2-cyanomethylaminoethoxy)-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo-azepine.

reactant | chloroacetonitrile | 0.01 ml | ClCC#N | C2H2ClN
reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.24 ml | [I-].[Na+]
reactant | 5-(2-aminoethoxy)-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.7 g | NCCOC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)OC)=O | C27H27Cl2N3O4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(2-cyanomethylaminoethoxy)-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo-azepine | 0.5 g | C(#N)CNCCOC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)OC)=O | C29H28Cl2N4O4
